US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared from (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (0.077 g, 0.280 mmol), 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid (0.055 g, 0.308 mmol), DIPEA (0.073 ml, 0.420 mmol), HOBt (0.057 g, 0.420 mmol) and EDCI (0.081 g, 0.420 mmol) using the method of Example 34(d) affording 0.090 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.15-1.17 (m, 3H), 2.52 (s, 3H), 4.32-4.35 (m, 2H), 4.44-4.51 (m, 1H), 6.61 (d, 2H), 7.65-7.67 (m, 1H), 7.75-7.79 (m, 1H), 7.82 (d, 1H), 7.84 (d, 1H), 8.30 (m, 2H), 8.35 (m, 2H), 13.69 (m, 1H).

reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 0.280 mmol, 0.077 g | N[C@@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
reactant | 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid | 0.308 mmol, 0.055 g | O1C(=CC=C1)C1=NNC(=C1)C(=O)O | C8H6N2O3
reactant | DIPEA | 0.420 mmol, 0.073 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 0.420 mmol, 0.057 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.420 mmol, 0.081 g | CCN=C=NCCCN(C)C | C8H17N3
product | (R)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide | 0.090 g | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C1=CC(=NN1)C=1OC=CC1)C | C22H19ClN6O2
